US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-((E)-3-phenylallyloxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester (70 mg) was treated with 255 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 50 mg of cinnamyl bromide to give the alkylated product, which was deprotected to yield 5.8 mg of the title compound as a foam.

reactant | 6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-((E)-3-phenylallyloxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C.COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)C(C)OC\C=C\C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | cinnamyl bromide | 50 mg | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | THF | C1CCOC1 | C4H8O
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 5.8 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
